US04056621
2-(5-Methyl-4-imidazolylmethylthio)ethanol (0.34 g, 2 mmol) and thionyl chloride (0.238 g, 2 mmol) were heated together, with stirring, at reflux temperature in chloroform (10 ml) for 1 hour, giving a grey solution and a green oil. A second equivalent of thionyl chloride 80.238 g) was added at reflux temperature and immediately the oil went into solution and a solid started to crystallise. After a further 15 minutes at reflux temperature the mixture was cooled and the solid collected (0.395 g). Recrystallisation from acetonitrile gave 1-chloro-2-(5-methyl-4-imidazolylmethylthio)ethane hydrochloride, m.p. 163°-165°, (0.29 g).

reactant | 2-(5-Methyl-4-imidazolylmethylthio)ethanol | 2 mmol, 0.34 g | CC1=C(N=CN1)CSCCO | C7H12N2OS
reactant | thionyl chloride | 2 mmol, 0.238 g | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 80.238 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-chloro-2-(5-methyl-4-imidazolylmethylthio)ethane hydrochloride | Cl.ClCCSCC=1N=CNC1C | InChI=1S/C7H11ClN2S.ClH/c1-6-7(10-5-9-6)4-11-3-2-8;/h5H,2-4H2,1H3,(H,9,10);1H
